US07235572B2
A 1.5 M solution of tert-butyllithium in pentane (3.3 ml, 4.99 mmol) was added dropwise to a solution of 3-bromo-1-(tert-butyl-dimethyl-silanyl)-5-(tert-butyl-dimethyl-silanyloxy)-1H-indole (1 g, 2.3 mmol) in THF (6 ml) at −78° C. under an argon atmosphere. After 15 min ethyl iodide (0.37 ml, 4.5 mmol) was added at −78° C. The reaction mixture was stirred for 30 min at −78° C. and for 2 h at RT. After quenching with saturated aqueous NaHCO3 solution the reaction mixture was partitioned between ether and water. The organic layer was dried over sodium sulfate and concentrated in vacuo to give 880 mg (2.26 mmol, 99%) 1-(tert-butyl-dimethyl-silanyl)-5-(tert-butyl-dimethyl-silanyloxy)-3-ethyl-1H-indole.

reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | pentane | 4.99 mmol, 3.3 ml | CCCCC | C5H12
reactant | 3-bromo-1-(tert-butyl-dimethyl-silanyl)-5-(tert-butyl-dimethyl-silanyloxy)-1H-indole | 2.3 mmol, 1 g | BrC1=CN(C2=CC=C(C=C12)O[Si](C)(C)C(C)(C)C)[Si](C)(C)C(C)(C)C | C20H34BrNOSi2
reactant | ethyl iodide | 4.5 mmol, 0.37 ml | C(C)I | C2H5I
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | 1-(tert-butyl-dimethyl-silanyl)-5-(tert-butyl-dimethyl-silanyloxy)-3-ethyl-1H-indole | 2.26 mmol, 880 mg, 99% | C(C)(C)(C)[Si](N1C=C(C2=CC(=CC=C12)O[Si](C)(C)C(C)(C)C)CC)(C)C | C22H39NOSi2
